US07358247B2
Preparation of pure mycophenolate mofetil
A mixture of mycophenolic acid (192 g, 0.6 mol) and 4-(2-hydroxyethyl)-morpholine (440 ml, 6 molar equivalents) was stirred at 150-155° C. for 4 hours in the presence of tin(II) chloride dihydrate (20.4 g, 0.15 molar equivalents) under nitrogen atmosphere. After the completion of the reaction, the reaction mixture was allowed to cool to room temperature. The obtained dark liquid was poured into isobutyl acetate (4.0 l). The solution was extracted with 2% of aqueous sodium bicarbonate solution (1.2 l, then 2×0.4 l). After the first addition of sodium bicarbonate solution the formed two-phase system was treated with charcoal (40 g) and filtrated (an emulsion was filtered off). The solution was extracted with water (1 l). -After phase separation the organic phase was washed with water (1 l) and evaporated to dryness at 40-50° C. under vacuum. To the solid material acetone (400 ml) and isopropanol (3.8 l) were added and the mixture was warmed to 40-45° C. (the material was dissolved). The solution was cooled to −5° C. during 6 hours and it was stirred at this temperature for 10-12 hours. After filtration, the crystals were washed with 2:19 acetone/isopropanol mixture (420 ml). The crude compound was dried in vacuum at 60° C. The yield was 169-195 g (65-75%). HPLC impurity profile: MPA=0.1%. Assay: 99.85%.

reactant | mycophenolic acid | 0.6 mol, 192 g | CC1=C2C(=C(C(=C1OC)C/C=C(\C)/CCC(=O)O)O)C(=O)OC2 | C17H20O6
reactant | tin(II) chloride dihydrate | 0.15 molar, 20.4 g | O.O.[Sn](Cl)Cl
reactant | isobutyl acetate | 4.0 l | C(C)(=O)OCC(C)C | C6H12O2
reactant | 4-(2-hydroxyethyl)-morpholine | 6 molar, 440 ml | OCCN1CCOCC1 | C6H13NO2
product | mycophenolate mofetil | CC1=C2C(=C(C(=C1OC)C/C=C(\C)/CCC(=O)OCCN3CCOCC3)O)C(=O)OC2 | C23H31NO7
